US08710245B2
(a) Synthesis of 2-(5-bromothiophen-2-yl)ethanol
To a solution of 2-(thiophen-2-yl)ethanol (3 g, 23.4 mmol, 1 eq) and HOAc (5 mL) in CHCl3 was added NBS in portions at room temperature. After stirring at room temperature overnight, the reaction mixture was poured into water and extracted with CHCl3 twice. The combined organic layer was dried over Na2SO4, concentrated and purified by column chromatography to give the desired product.

reactant | 2-(thiophen-2-yl)ethanol | 23.4 mmol, 3 g, 1 eq | S1C(=CC=C1)CCO | C6H8OS
reactant | HOAc | 5 mL | CC(=O)O | C2H4O2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-bromothiophen-2-yl)ethanol | BrC1=CC=C(S1)CCO | C6H7BrOS
